US06794336B2
5a) 2-(3-Trifluoromethylphenyloxy)-6-cyanopyridine
4.00 g (28.9 mmol) of 2-chloro-6-cyanopyridine were introduced together with 9.57 g (69.3 mmol) of potassium /carbonate in 20 ml of anhydrous DMF, and 5.62 g (34.6 mmol) of 3-hydroxybenzotrifluoride were added. After 10 h of stirring at 90° C., H2O was added and the mixture was subjected to repeated extraction with ethyl acetate. The organic phase was then washed twice with water, dried over MgSO4 and concentrated.

reactant | 2-chloro-6-cyanopyridine | 28.9 mmol, 4.00 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
reactant | potassium carbonate | 69.3 mmol, 9.57 g | [K].C([O-])([O-])=O
reactant | 3-hydroxybenzotrifluoride | 34.6 mmol, 5.62 g | OC=1C=C(C=CC1)C(F)(F)F | C7H5F3O
reactant | H2O | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(3-Trifluoromethylphenyloxy)-6-cyanopyridine | FC(C=1C=C(C=CC1)OC1=NC(=CC=C1)C#N)(F)F | C13H7F3N2O
